US07501386B2
Preparation of N-(4-tert-butylphenyl)-2,3-dihydro-1-benzofuran-5-amine
To a flask equipped with a magnetic stirrer, reflux condensor, and nitrogen inlet was added 2,3-dihydro-1-benzofuran-5-amine (11.6 grams, 85.8 mmoles, prepared as in Example 23 of U.S. Pat. No. 20040029932), 4-tert-butyl bromobenzene (18.1 grams, 85 mmoles), tris(dibenzylideneacetone)dipalladium (0) (1.6 grams, 1.7 mmoles), rac-2,2′-bis(diphenylphosphino)-1,1′-binapthyl (2.1 grams, 3.4 mmoles), sodium tert-butoxide (16.4 grams, 0.17 moles) and anhydrous toluene (100 mL). The contents of the flask were refluxed for three days; cooled to room temperature; and filtered through a pad of silica gel. The silica gel pad was then eluted with dichloromethane (150 mL). The combined organic layers were concentrated in vacuo to yield a dark solid. The solid was chromatographed on silica gel, eluting with hexane/ethyl acetate (20:1) to afford 10 grams of the desired product as a white solid. 1H NMR (CDCl3) δ 7.25 (d, 2H), 6.95 (s, 1H), 6.85 (d, 3H), 6.7 (d, 1H), 5.4 (bs, 1H), 4.5 (t, 2H), 3.15 (t, 2H), 1.3 (s, 9H).

reactant | 2,3-dihydro-1-benzofuran-5-amine | O1CCC2=C1C=CC(=C2)N | C8H9NO
reactant | 4-tert-butyl bromobenzene | 85 mmoles, 18.1 grams | C(C)(C)(C)C1=CC=C(C=C1)Br | C10H13Br
reactant | sodium tert-butoxide | 0.17 moles, 16.4 grams | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 1.7 mmoles, 1.6 grams | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | rac-2,2′-bis(diphenylphosphino)-1,1′-binapthyl | 3.4 mmoles, 2.1 grams | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-tert-butylphenyl)-2,3-dihydro-1-benzofuran-5-amine | 10 grams | C(C)(C)(C)C1=CC=C(C=C1)NC=1C=CC2=C(CCO2)C1 | C18H21NO
